* D:\2024-25\Education\ELE713\Project\[03] Simulation\Close-Loop-Forward-Converter.asc
R2 N019 SEC {RL}
C1 N019 SEC {Cf} Rser=2m
D2 0 N010 D1
D1 N017 N018 D1
D3 SEC N018 D1
L4 N018 N019 {Lf} Rser=50m
L§ind3 N010 N001 {L3} Rser=20m
L§ind2 N017 SEC {L2} Rser=20m
L§ind1 N001 N007 {L1} Rser=20m
B1 N001 0 V={Vi}
R1 N005 N008 36
C2 N004 N008 {Caux} Rser=2m
D4 N002 N003 D1
L§ind4 N002 N008 {L4} Rser=20m
Q1 N004 N006 N005 0 2N2222
R3 N004 N006 1.5k
D6 N008 N006 MMBZ16VALY
D5 N008 N003 D1
L1 N003 N004 {Laux} Rser=50m
V1 Vaux 0 12
Rs N012 0 10m
R4 N012 N013 10
C3 N013 0 2.2n
R5 N016 FB 33k
R6 N021 0 200K
R7 0 N020 100K
R8 0 N015 180k
C4 N014 0 68n
C5 Vref 0 0.1µ
R9 Vref N014 12k
R10 N014 0 15k
R11 N001 N011 240K
R12 N011 0 {240K/24}
XU2 Vbias SEC N027 N025 N028 P001 LT4430
R13 N019 N025 200K
R14 N025 SEC 27.2K
C6 N025 N028 10p
R15 P002 N028 5K
C7 N025 P002 10n
XU3 P003 SEC N024 N026 NC_01 4N25
C8 N027 SEC 22n
R16 P001 P003 470
V2 Vbias SEC 5
R17 N024 Vaux 220
R18 N026 0 1.2k
R19 N026 FB 22K
M1 N007 N009 N012 N012 BSC320N20NS3
Q2 0 Vref N026 0 BC856B
XU1 N016 FB N015 MP_02 N014 Vref N011 0 N021 N013 N013 N020 0 N009 Vaux Sout LT1952-1
R20 N008 0 1Meg
R21 0 SEC 1Meg
R22 N009 N012 10k
C9 N025 SEC 10n
C10 0 SEC 10p
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.011 0
K1 ind1 ind2 ind3 ind4 1
.param L1 185u
.param L2  26.4u
.param L3 185u
.param L4 185u
.param fs  200k
.param Cf 15u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 20u
.param Vi 60
.param D 0.22
.lib 4N25.sub
.lib LT1952-1.sub
.lib LT4430.sub
.backanno
.end
